US09328118B2
2-[4-ethoxy-3-(trifluoromethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (188 mg), Na2CO3 (217 mg), and tetrakis(triphenylphosphine)palladium (0) (29 mg) were added to a mixture of 2,4-dichloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (100 mg), dioxane (2 mL), and water (0.3 mL) in an argon atmosphere, and the reaction mixture was stirred at 100° C. for 6 hours. After the reaction mixture was cooled to room temperature, extraction thereof was performed using EtOAc, and the extract was washed with water and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=9:1 to 7:3), whereby 2-chloro-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine (130 mg) was obtained as a light yellow solid.

reactant | 2-[4-ethoxy-3-(trifluoromethyl)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 188 mg | C(C)OC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(F)(F)F | C15H20BF3O3
reactant | Na2CO3 | 217 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2,4-dichloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 100 mg | ClC=1N=C(C2=C(N1)N(C=C2)C)Cl | C7H5Cl2N3
reactant | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 29 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.3 mL | O | H2O
product | 2-chloro-4-[4-ethoxy-3-(trifluoromethyl)phenyl]-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 130 mg | ClC=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(C=C2)OCC)C(F)(F)F | C16H13ClF3N3O
